US05834493
5-methoxy-3-(N-methyl-piperidin-3-ylmethyl)-1H-indole
To a stirred solution of compound of Description 6 [5-methoxy-3-(piperidin-3-ylmethyl)-1H-indole] (2 g, 0.0082 mol) in methanol (50 ml) was added dropwise aqueous formaldehyde (40%) (5.63 ml; 0.082 mol). The mixture was heated at reflux for 2 hours. The reaction mixture was cooled at 10° C. and then sodium borohydride (0.93 g; 0.025 mol) was added. The resulting mixture was stirred at room temperature for 1.5 hours. The reaction was then quenched with water and the solvent (methanol) was evaporated under vacuum. The product was extracted with ethyl acetate, the organic extract was dried (Mg SO4) and evaporated under vacuum, then the compound was triturated with diethyl ether and dried under vacuum giving the title compound as a solid (1.8 g)

reactant | 5-methoxy-3-(piperidin-3-ylmethyl)-1H-indole | COC=1C=C2C(=CNC2=CC1)CC1CNCCC1 | C15H20N2O
reactant | formaldehyde | 0.082 mol, 5.63 ml | C=O | CH2O
reactant | sodium borohydride | 0.025 mol, 0.93 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 5-methoxy-3-(N-methyl-piperidin-3-ylmethyl)-1H-indole | 1.8 g | COC=1C=C2C(=CNC2=CC1)CC1CN(CCC1)C | C16H22N2O
